US06028195
1-[(2-Methoxy-4-methyl-5-vinylphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine
1-{[5-(1-Hydroxyethyl)-2-methoxy-4-methylphenyl]aminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine(0.2 g, 0.47 mmol) was dissolved in chloroform(15 ml), pyridium p-toluenesulfonate(0.12 g, 0.47 mmol) was added thereto, and the resulting mixture was refluxed for 16 hours, and concentrated under the reduced pressure to remove chloroform and purified by column chromatography(ethylacetate:hexane=1:2) to obtain the titled compound.

reactant | 1-{[5-(1-Hydroxyethyl)-2-methoxy-4-methylphenyl]aminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine | 0.47 mmol, 0.2 g | OC(C)C=1C(=CC(=C(C1)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC)OC)C | C23H31N3O5
reactant | pyridium p-toluenesulfonate | 0.47 mmol, 0.12 g | C=1C=CC(=CC1)N=NC=2C=CC(=NC2N)N.Cl.CC=1C=CC(=CC1)S(=O)(=O)O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[(2-Methoxy-4-methyl-5-vinylphenyl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | yield: 84% | COC1=C(C=C(C(=C1)C)C=C)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C23H29N3O4
